US05081141
Preparation of 1-(1,2,4-triazol-1-yl)-2-(4-chlorophenyl)-2-(1,1,2,2-tetrafluoroethoxy)-methyl-propane (Compound No. 5)
An amount of 6.1 of potassium tert-butoxide is added, under nitrogen atmosphere at -10° C., to 1.9 g of 2-(4-chlorphenyl)-2-methyl-3-(1,2,4-triazol-1-yl)-1-hydroxy-propane dissolved in 6.5 ml of anhydrous THF, 13 ml. of anhydrous DMSO, and 13 ml of anhydrous tert. butanol. The apparatus is then first put under vacuum and tetrafluoroethylene is introduced by maintaining the reaction mass under this gas atmosphere over a time of one night, at room temperature. The reaction mixture then is poured into water, and extracted with ethyl acetate. The extract is washed with water, dried over Na2SO4 and evaporated; the raw product obtained is purified by chromatography over silica gel, using n-hexane-ethyl acetate 1:1 as eluent. 1 g of an oil is isolated having the structure indicated in the title of this example, according to the following spectroscopic data:

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-(4-chlorphenyl)-2-methyl-3-(1,2,4-triazol-1-yl)-1-hydroxy-propane | 1.9 g | ClC1=CC=C(C=C1)C(CO)(CN1N=CN=C1)C | C12H14ClN3O
reactant | DMSO | CS(=O)C | C2H6OS
reactant | tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | water | O | H2O
solvent | THF | 6.5 ml | C1CCOC1 | C4H8O
solvent | tert. butanol | 13 ml | C(C)(C)(C)O | C4H10O
product | 1-(1,2,4-triazol-1-yl)-2-(4-chlorophenyl)-2-(1,1,2,2-tetrafluoroethoxy)-methyl-propane | 1 g | N1(N=CN=C1)C(C(C)(OC(C(F)F)(F)F)C1=CC=C(C=C1)Cl)C | C14H14ClF4N3O
